Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:3]1([H:12])[C:2]([H:10])([H:11])[O:6][C:5]([H:15])([H:16])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9],79.30310164916841
[C:1]([C:2]([C:3]([H:13])([H:14])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])[H:15]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],80.33195868269178
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12]>>[H:10][H:12].[N:1]1([H:7])[C@:2]2([H:8])[C@@:3]1([H:9])[C+:4][N:5]([H:11])[C-:6]2,80.27404751893951
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2](\[C-:7]([N+:4]#[N:3])[H:10])[H:9])\[H:8].[O+:5]#[C-:6],96.9983914044517
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](/[N:4]=[C:5]1\[O:6][C:7]1([H:16])[H:18])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17],93.7910147859794
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C+:2]([C:3]#[N:4])[C:5](=[N-:6])[H:8])[H:7],58.190999102491396
[C:1]([C@@:2]([O+:4]=[C-:3][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],44.5692026257487
[C:1]([C:2]([C:3](/[N:4]=[C:5]1\[O:6][C:7]1([H:16])[H:18])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],29.570129438124894
[O:1]([C@:2]12[C:3]([H:7])([H:8])[N:4]3[C@@:5]1([H:10])[C@:6]23[H:11])[H:9]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],50.2215516484911
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[N:1]([C:3](=[C:2]=[N:7][C+:5]([N-:4][H:11])[O:6][H:12])[H:10])([H:8])[H:9],75.2319573020763
[C:1](/[C:2](=[C:3](\[C:4](=[O:5])[H:14])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],76.66653307053122
[O:1]1[C:2]([H:6])([H:7])[C:3][C:4]1([H:5])[H:8]>>[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5],31.0608466436272
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]2[C:4]([H:11])([H:12])[C@@:5]2([C:7]([H:13])([H:14])[H:15])[O:6]1)([H:8])([H:9])[H:10],67.2983048667938
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4](/[C:6]([O:5][H:12])=[N:7]/[H:13])([H:10])[H:11])([H:8])[H:9],101.73442518621201
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@:2]1([H:9])[N+:5]#[C:4][C:3]([H:10])([H:11])[C:6]1=[C-:7][H:12])[H:8],54.660720637871286
[C:1]([C@@:2]([C:3]#[N+:4][O-:6])([C:5][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],30.083958253660015
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4]([O:5][H:14])=[C:6](/[O:7][H:17])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:16],88.49188872604358
[C:1]([C:2]([C:3][H:11])([C:4]([H:12])([H:13])[H:14])[O:5][C:6](=[O:7])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],0.7013127835748065
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[C:5]([C:6](=[O:7])[H:17])[H:15])([H:13])[H:14].[H:12][H:16],64.7597955114981
[C:1]([C:2]1=[C:3]([O:7][H:17])[C:4]1([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],53.77335661394319
[C:1]([C:2]([N:3]([O:5][C-:4]=[O+:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],19.638712629279
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:6]([C:2](=[O:3])[C:4](=[O:5])[H:12])([O:7][H:11])[H:13])([H:8])([H:9])[H:10],38.0128193662134
[C:2](=[C:3]([H:11])[H:12])([H:9])[H:10].[O:1]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],54.35469197041202
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]([C+:2]1[N:3]([H:8])[C-:4]([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12])[H:9],109.71002236799299
